US05476860
a) 6-(2-Bromoacetyl)-4,4-dimethylthiochroman
In a manner analogous to Example 1(b), the synthesis is carried out starting from 1 g (4.42 mmol) of 6-acetyl-4,4-dimethylthiochroman and 700 mg (4.42 mmol) of bromine. After treatment and purification by chromatography on a silica column, eluting with a mixture of dichloromethane/hexane (40:60), 700 mg (53%) of expected bromo derivative are obtained in the form of a chestnut-brown oil.

reactant | 6-acetyl-4,4-dimethylthiochroman | 4.42 mmol, 1 g | C(C)(=O)C=1C=C2C(CCSC2=CC1)(C)C | C13H16OS
reactant | bromine | 4.42 mmol, 700 mg | BrBr | Br2
product | 6-(2-Bromoacetyl)-4,4-dimethylthiochroman | BrCC(=O)C=1C=C2C(CCSC2=CC1)(C)C | C13H15BrOS
